US07799792B2
To a solution of 5-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one (100 mg, 0.228 mmol) in MeCN (4 mL) was added K2CO3 (95 mg, 0.684 mmol) and (1s,4s)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester (90 mg, 0.451 mmol). After 48 hours the mixture was diluted with water, then extracted with EtOAc. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated to a yellow oil. This residue was dissolved in 1:1 TFA/CH2Cl2 (6 mL) for 30 minutes, then the reaction mixture was concentrated and basified with NaHCO3 to pH˜9-10. The product was extracted with CH2Cl2. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated. The residue was purified by column chromatography on silica (2-8% 2M NH3 in MeOH/CH2Cl2) to provide 5-[5-(2,5-diazabicyclo[2.2.1]hept-2-ylmethyl)-[1,2,4]oxadiazol-3-yl]-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one as a light yellow solid (83 mg). 1H NMR (300 MHz, CDCl3) δ 7.95 (s, 1H), 7.91 (s, 1H), 7.34 (d, 2H), 7.18 (d, 2H), 4.77 (s, 2H), 4.28 (s, 2H), 4.05 (dd, 2H), 3.57 (d, 2H), 3.20 (d, 1H), 3.13 (dd, 1H), 2.88 (dd, 1H), 2.79 (s, 3H), 2.61 (d, 1H), 1.86 (d, 1H), 1.64 (d, 1H).

reactant | 5-(5-chloromethyl-[1,2,4]oxadiazol-3-yl)-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 0.228 mmol, 100 mg | ClCC1=NC(=NO1)C=1C=C2CN(C(C2=C(C1)C)=O)CC1=CC=C(C=C1)OC(F)(F)F | C20H15ClF3N3O3
reactant | K2CO3 | 0.684 mmol, 95 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | (1s,4s)-2,5-diaza-bicyclo[2.2.1]heptane-2-carboxylic acid tert-butyl ester | 0.451 mmol, 90 mg | C(C)(C)(C)OC(=O)N1[C@@H]2CN[C@H](C1)C2 | C10H18N2O2
solvent | MeCN | 4 mL | CC#N | C2H3N
solvent | water | O | H2O
product | 5-[5-(2,5-diazabicyclo[2.2.1]hept-2-ylmethyl)-[1,2,4]oxadiazol-3-yl]-7-methyl-2-(4-trifluoromethoxybenzyl)-2,3-dihydroisoindol-1-one | 83 mg | C12N(CC(NC1)C2)CC2=NC(=NO2)C=2C=C1CN(C(C1=C(C2)C)=O)CC2=CC=C(C=C2)OC(F)(F)F | C25H24F3N5O3
